US03957783
To a suspension of 380 mg of 1-cyclopropylmethyl-4-phenyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one and 1.2 ml of acetic anhydride is added 380 mg of fuming nitric acid (d = 1.50) is 1.20 ml of acetic anhydride. The reaction mixture is stirred for 48 hours at room temperature, then neutralized with aqueous ammonia under ice-cooling and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate and evaporated under reduced pressure to give crystals, which are recrystallized from chloroform-ethanol to give 1-cyclopropylmethyl-4-phenyl-6-nitro-1,2-dihydrothieno[2,3-d]pyrimidin-2-one as crystals having a melting point of 216° - 218°C.

reactant | 1-cyclopropylmethyl-4-phenyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | 380 mg | C1(CC1)CN1C(N=C(C2=C1SC=C2)C2=CC=CC=C2)=O | C16H14N2OS
reactant | acetic anhydride | 1.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 380 mg | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 1.20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonia | N | H3N
product | 1-cyclopropylmethyl-4-phenyl-6-nitro-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | C1(CC1)CN1C(N=C(C2=C1SC(=C2)[N+](=O)[O-])C2=CC=CC=C2)=O | C16H13N3O3S
